US04112096
2-(Methoxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
2.9 g (0.01 mole) of 2-(methoxymethyl)-6-(p-methoxybenzyl)pyrazolo[1,5-c]quinazolin-5(6H)-one in 100 ml of anhydrous hydrogen fluoride is stirred at 20° C. for one hour. The hydrogen fluoride is then evaporated; the residue is partitioned between methylene chloride and dilute aqueous sodium bicarbonate. The organic phase is washed with water, dried and evaporated. The residue is stirred with ether and the title compound is filtered off and dried.

reactant | 2-(methoxymethyl)-6-(p-methoxybenzyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 0.01 mole, 2.9 g | COCC1=NN2C(N(C=3C=CC=CC3C2=C1)CC1=CC=C(C=C1)OC)=O | C20H19N3O3
solvent | hydrogen fluoride | 100 ml | F | FH
product | 2-(Methoxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | COCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C12H11N3O2
